US07326715B2
4-[4-(2-tert-butyloxycarbonylethyl)-piperazin-1-yl]-6-(3-trifluoromethyl-phenyl)pyrimidine-2-carbonitrile
4-(Piperazin-1-yl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile trifluoroacetic acid salt (112 mg), tert-butyl acrylate (49 μl), diisopropylethylamine (59 μl) and dimethylformamide (0.2 ml) were combined and stirred at 45° C. for 16 hrs. After adding methanol, product was purified by using the prep-HPLC to generate 4-[4-(2-tert-butoxycarbonyl-ethyl)-piperazin-1-yl]-6-(3-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile trifluoroacetic acid salt as a white solid (30 mg).

reactant | 4-(Piperazin-1-yl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile trifluoroacetic acid salt | 112 mg | FC(C(=O)O)(F)F.N1(CCNCC1)C1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N
reactant | tert-butyl acrylate | 49 μl | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | diisopropylethylamine | 59 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 4-[4-(2-tert-butyloxycarbonylethyl)-piperazin-1-yl]-6-(3-trifluoromethyl-phenyl)pyrimidine-2-carbonitrile | C(C)(C)(C)OC(=O)CCN1CCN(CC1)C1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C23H26F3N5O2
